US09328256B2
Functionalization of NCC Surface with 2H,2H,3H,3H-Perfluorodecanoic Acid
A suspension with the desired amount of nanocrystalline cellulose (2 grams in 100 grains methanol; 2 wt %) was solvent exchanged to acetone and then to dry toluene by several successive centrifugations and redispersions. Sonication was performed after each solvent exchange step. The suspension was transferred to a 3-neck round bottom flask and an excess of 2H,2H,3H,3H-perfluoroundecanoic acid (available from SynQuest Laboratories) was added to the stirring suspension followed by a catalytic amount of p-toluenesulfonic acid. The surface modification of the cellulose nanostructures were conducted at 105° C. for up to 24 hours. Following surface treatment, the material was purified and dried as in Example 1.

reactant | acetone | CC(=O)C | C3H6O
reactant | 2H,2H,3H,3H-perfluoroundecanoic acid | C(CC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C(=O)O | C11H5F17O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2H,2H,3H,3H-Perfluorodecanoic Acid | C(CC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C(=O)O | C10H5F15O2
